US07371869B2
To a vigorously stirred solution of (S)-2-tert-butoxycarbonylamino-3-(4-hydroxy-3-nitro-phenyl)-propionic acid ethyl ester (1.00 g, 2.82 mmol) in methanol (50 mL) was added a solution of ammonium chloride (2.26 g, 42.3 mmol) in water (25 mL) followed by zinc dust (<10 μM particle size) (1.84 g, 28.1 mmol). After stirring at ambient temperature for 30 minutes the reaction mixture was filtered through a pad of Celite® and residual soluble material eluted from the pad with methanol. The filtrate was concentarted in vacuo and the aqueous residue poured into water (100 mL), diluted with brine (50 mL) and extracted with ethyl acetate (3×50 mL). The combined organic extracts were washed with brine (75 mL), dried over sodium sulfate and concentrated in vacuo to give crude 3-(3-amino-4-hydroxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid ethyl ester as a green viscous solid which was used without further purification (0.89 g, 97%).

reactant | (S)-2-tert-butoxycarbonylamino-3-(4-hydroxy-3-nitro-phenyl)-propionic acid ethyl ester | 2.82 mmol, 1.00 g | C(C)OC([C@H](CC1=CC(=C(C=C1)O)[N+](=O)[O-])NC(=O)OC(C)(C)C)=O | C16H22N2O7
reactant | ammonium chloride | 42.3 mmol, 2.26 g | [Cl-].[NH4+]
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 25 mL | O | H2O
catalyst | zinc | 28.1 mmol, <10 μM, 1.84 g | [Zn] | Zn
product | 3-(3-amino-4-hydroxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)O)N)NC(=O)OC(C)(C)C)=O | C16H24N2O5
